US06723716B1
(Z)-2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-triphenylmethyloxyimino Acetic Acid
Into a 500 mL round bottom flask equipped with mechanical stirrer, reflux condenser and nitrogen purge was charged (Z)-methyl-2-(5-ethoxycarbonylamino-1,2,4-thiadiazol-3-yl)-triphenylmethyloxyiminoacetate (20.0 g, 0.04 mol, 1.0 eq) followed by 200 mL of a 2:1 solution of 2.5 M NaOH/ethanol. The resulting biphasic solution was heated to reflux and maintained there for 15 hours. The solution was cooled to 5° C. and the pH was slowly adjusted to 3-3.5 with concentrated HCl. The precipitated white solid was filtered and washed with cold water (3×100 mL). Removal of water by coevaporation with toluene (3×200 mL), followed by drying under high vacuum at 40° C. gave 15.44 grams of the title compound as a white fluffy solid. 1H NMR (DMSO) δ 7.20-7.45. Mass spectral analysis confirms product identity.

reactant | (Z)-methyl-2-(5-ethoxycarbonylamino-1,2,4-thiadiazol-3-yl)-triphenylmethyloxyiminoacetate | 0.04 mol, 20.0 g, 1.0 eq | COC(\C(\C1=NSC(=N1)NC(=O)OCC)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H24N4O5S
reactant | NaOH ethanol | 2.5 M | [OH-].[Na+].C(C)O
reactant | HCl | Cl | ClH
product | (Z)-2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-triphenylmethyloxyimino Acetic Acid | 15.44 grams | NC1=NC(=NS1)/C(/C(=O)O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N4O3S
